US07932232B2
The preparation of beta-fructosyl-L-ascorbic acid by levan fructo-transferase (1)
4% levan and 1% ascorbic acid were dissolved in 50 mM of phosphate buffer solution (pH 6.0) and the pH of the solution was adjusted to 6.0 using by 4N NaOH. 100 mL of the solution was poured into brown bottle and levan fructotransferase derived from Arthrobacter oxydans (50 units/g of levan) was added thereto and sealed up. The solution was stirred at 37° C. for 72 hours to proceed the enzymatic reaction. In HPLC analysis of the reaction product, about 30% ascorbic acid was transformed into ascorbic acid fructoside. The reaction mixture was heated to inactivate unreacted enzyme. The solution was subjected to filtration and resulting supernatant was subjected to decolorization with activated carbon, concentration to obtain purposed beta-fructosyl-L-ascorbic acid with about 90% yield in dry weight base of final product for the starting material.

reactant | ascorbic acid | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | NaOH | 4N | [OH-].[Na+]
solvent | phosphate | 50 mM, pH 6.0 | P(=O)([O-])([O-])[O-]
product | beta-fructosyl-L-ascorbic acid | OC[C@@]1([C@@H](O)[C@H](O)[C@H](O1)CO)[C@]1(C(=C(C(=O)O1)O)O)[C@@H](O)CO | C12H18O11
